US06017919
LAH (0.615 g, 0.0162 mol, 3.0 eq) was dissolved in THF (20 ml), and to this solution was added dropwise a THF solution (20 ml) of (3-benzyloxyphenyl)-acetonitrile (1.2 g, 0.0054 mol, 1.0 eq) under ice-cooling. After the completion of the dropwise addition, the mixture was refluxed under heating for 3 hours. The reaction mixture was cooled to room temperature, and a saturated aqueous sodium sulfate solution (about 3040 ml) was added under ice-cooling. After filtration through Celite, the filtrate was concentrated under reduced pressure. The obtained residue was purified by column chromatography (chloroform/methanol=10/1) to give 2-(3-benzyloxyphenyl)ethylamine (0.434 g, 35.3%) as a pale-yellow amorphous.

reactant | LAH | 0.0162 mol, 0.615 g, 3.0 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | (3-benzyloxyphenyl)-acetonitrile | 0.0054 mol, 1.2 g, 1.0 eq | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CC#N | C15H13NO
reactant | sodium sulfate | about 3040 ml | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 2-(3-benzyloxyphenyl)ethylamine | 0.434 g, 35.3% | C(C1=CC=CC=C1)OC=1C=C(C=CC1)CCN | C15H17NO
